US07399759B2
3-[4-Methyl-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propionic acid
tert-Butyl 3-[4-methyl-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate (0.44 g, 1.1 mmol) was dissolved in trifluoroacetic acid (5 ml), and the mixture was stirred at 0° C. for 2 hrs. The solvent was evaporated, and the residue was recrystallized from diisopropyl ether-methanol to give the titled compound (0.33 g, 87%) as white crystals.

reactant | tert-Butyl 3-[4-methyl-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate | 1.1 mmol, 0.44 g | CC1=CC(=NC(=C1)C=1SC2=C(C(N1)=O)C=CC=C2)CCC(=O)OC(C)(C)C | C21H22N2O3S
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[4-Methyl-6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propionic acid | 0.33 g, 87% | CC1=CC(=NC(=C1)C=1SC2=C(C(N1)=O)C=CC=C2)CCC(=O)O | C17H14N2O3S
